US07985769B2
Saponification of 3-[Isopropyl-(3-methyl-cyclopent-3-enecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (50 mg, 0.13 mmol) using LiOH.H2O (22 mg) as previously described furnished the 3-[Isopropyl-(3-methyl-cyclopent-3-enecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid (30 mg, 62.5% yield) as a solid. 1H NMR (CD3OD, 400 MHz 1:1 mixture of rotamers) 7.73-7.70 (m, 4H), 7.47-7.35 (m, 6H), 7.29 (s, 1H), 7.27 (s, 1H), 5.16 (s, 1H), 5.08 (s, 1H), 4.9-4.8 (m, 2H), 3.15-3.05 (m, 2H), 2.76-2.65 (m, 2H), 2.42-2.12 (m, 6H), 1.65 (s, 3H), 1.61 (s, 3H), 1.25 (d, J=6.6 Hz, 3H), 1.24 (d, J=6.6 Hz, 3H), 1.03 (d, J=6.9 Hz, 6H).

reactant | 3-[Isopropyl-(3-methyl-cyclopent-3-enecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.13 mmol, 50 mg | COC(=O)C=1SC(=CC1N(C(=O)C1CC(=CC1)C)C(C)C)C1=CC=CC=C1 | C22H25NO3S
reactant | LiOH.H2O | 22 mg | O[Li].O
product | 3-[Isopropyl-(3-methyl-cyclopent-3-enecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid | 30 mg, 62.5% yield | C(C)(C)N(C1=C(SC(=C1)C1=CC=CC=C1)C(=O)O)C(=O)C1CC(=CC1)C | C21H23NO3S
